US05574033
6-Methyl-2-(4-pyridyl)-4H,6H-1,3,4-thiadiazin-5-one (415 mg, 2 mmol) and 2'-chlorophenacyl bromide (654 mg, 2.8 mmol) were dissolved in absolute ethanol (6 ml) and stirred at room temperature for one day. The solvent was removed under reduced pressure to obtain 1-[(2-chlorophenyl)carbonylmethyl]-4-(6-methyl-4H,6H-1,3,4-thiadiazin-5-one-2-yl)pyridinium bromide as yellow brown gum. The salt was dissolved in methanol (7 ml), gradually added with sodium borohydride (756 mg, 20 mmol) under ice cooling and stirred at room temperature overnight. The solvent was removed under reduced pressure. The residue obtained was separated by column chromatography (dichloromethane-methanol=40:1) and purified to obtain the titled compound (621 mg) as opaline plates.

reactant | 6-Methyl-2-(4-pyridyl)-4H,6H-1,3,4-thiadiazin-5-one | 2 mmol, 415 mg | CC1C(NN=C(S1)C1=CC=NC=C1)=O | C9H9N3OS
reactant | 2'-chlorophenacyl bromide | 2.8 mmol, 654 mg | C1=CC=C(C(=C1)C(=O)CBr)Cl | C8H6BrClO
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-[(2-chlorophenyl)carbonylmethyl]-4-(6-methyl-4H,6H-1,3,4-thiadiazin-5-one-2-yl)pyridinium bromide | [Br-].ClC1=C(C=CC=C1)C(=O)C[N+]1=CC=C(C=C1)C=1SC(C(NN1)=O)C | InChI=1S/C17H14ClN3O2S.BrH/c1-11-16(23)19-20-17(24-11)12-6-8-21(9-7-12)10-15(22)13-4-2-3-5-14(13)18;/h2-9,11H,10H2,1H3;1H
